US06833432B2
4,4′-dinitro-2-azidobiphenyl (2):
To a solution of 10.0 g (38.6 mmol) of 4,4′-dinitro-2-biphenylamine in a mixture of 200 mL of acetic acid and 40 mL of sulfuric acid at 0° C. was added dropwise 5.32 g (77.2 mmol, Aldrich Co.) of sodium nitrite. The mixture was stirred at 5-10° C. for 2 h after 5.00 g of urea (to destroy the excess nitrous acid), 500 mL of ice-water and 5 g of activated carbon was added. The cold suspension was stirred again for 20 min and filtrated rapidly through a Büchner funnel into a flask immersed in an ice bath. A solution of 5.07 g (77.2 mmol, Aldrich Co.) of sodium azide in 100 mL of water was added dropwise to the yellow clear filtrate. The resulting solution was stirred at 0° C. for 1 h and at room temperature for 24 h. The mixture was quenched with 500 mL of a solution of NaHCO3 in water and extracted three times with ethyl acetate. The organic layer was dried over magnesium sulfate and the solvent was removed under vacuum. Recristallization in ethanol afforded 7.37 g of the title product as a yellow solid. M.P. 171-172° C. (Yield: 72%).

reactant | 4,4′-dinitro-2-biphenylamine | 38.6 mmol, 10.0 g | [N+](=O)([O-])C=1C=C(C(=CC1)C1=CC=C(C=C1)[N+](=O)[O-])N | C12H9N3O4
reactant | sodium nitrite | 77.2 mmol, 5.32 g | N(=O)[O-].[Na+]
reactant | urea | 5.00 g | NC(=O)N | CH4N2O
reactant | sodium azide | 77.2 mmol, 5.07 g | [N-]=[N+]=[N-].[Na+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | sulfuric acid | 40 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 100 mL | O | H2O
product | 4,4′-dinitro-2-azidobiphenyl | 7.37 g, Yield: 72% | [N+](=O)([O-])C1=CC(=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-])N=[N+]=[N-] | C12H7N5O4
